US05491164
Step D: N-[2(R)-t-Butoxycarbonylamino-3-triphenylmethylmercaptopropyl]-L-proline-2,3-dichlorobenzamide
[2(R)-(t-butoxycarbonyl)amino-3-triphenylmethylmercaptopropyl]-L-proline (0.08 g, 0.153 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (EDC) (0.035 g, 0.184 mmol), and 1-hydroxybenzotriazole hydrate (HOBT) (0.025 g,0.184 mmol) were dissolved in DMF (2 mL), treated with 2,3-dichlorobenzylamine (0.025 mL, 0.184 mmol), and brought to pH 7 with Et3N (0.026 mL, 0.184 mmol). After stirring at ambient temperature for 18 h the mixture was concentrated to dryness, and the residue was partitioned between EtOAc and H2O, the organic layer separated, washed with aq satd NaHCO3, brine, and dried (Na2SO4). Filtration and concentration provided the title compound. 1H NMR (CD3OD) δ 7.1-7.5 (m, 18H), 4.53 (d, 1H, J=8 Hz), 4.26 (d, 1H,J=8 Hz), 3.64-3.76 (m, 1H), 2.96-3.14 (m, 2H), 2.52-2.66 (m, 1H), 2.1-2.5 (m, 5H), 1.6-1.9 (m, 3H), 1.45 (s, 9H).

reactant | [2(R)-(t-butoxycarbonyl)amino-3-triphenylmethylmercaptopropyl]-L-proline | 0.153 mmol, 0.08 g | C(C)(C)(C)OC(=O)N[C@H](CN1[C@H](C(=O)O)CCC1)CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H38N2O4S
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 0.184 mmol, 0.035 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | 1-hydroxybenzotriazole hydrate | 0.184 mmol, 0.025 g | O.ON1N=NC2=C1C=CC=C2
reactant | 2,3-dichlorobenzylamine | 0.184 mmol, 0.025 mL | ClC1=C(CN)C=CC=C1Cl | C7H7Cl2N
reactant | Et3N | 0.184 mmol, 0.026 mL | CCN(CC)CC | C6H15N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-[2(R)-t-Butoxycarbonylamino-3-triphenylmethylmercaptopropyl]-L-proline 2,3-dichlorobenzamide | C(C)(C)(C)OC(=O)N[C@H](CN1[C@H](C(=O)O)CCC1)CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.ClC1=C(C(=O)N)C=CC=C1Cl | InChI=1S/C32H38N2O4S.C7H5Cl2NO/c1-31(2,3)38-30(37)33-27(22-34-21-13-20-28(34)29(35)36)23-39-32(24-14-7-4-8-15-24,25-16-9-5-10-17-25)26-18-11-6-12-19-26;8-5-3-1-2-4(6(5)9)7(10)11/h4-12,14-19,27-28H,13,20-23H2,1-3H3,(H,33,37)(H,35,36);1-3H,(H2,10,11)/t27-,28+;/m1./s1
